+12V power rail (unregulated, J116/J117/J118): 9.8VAC winding -> F116 -> BR5 (GBU8J) -> C30 10000uF/25V. Case A: the STTNG transformer's measured 12.47 VAC unloaded (17.6 V peak, 0.25 ohm per leg) with 2.5 A of gun motors / optos / DMD / coin door (4.8 ohm) - minimum and ripple; case B: the same winding with only the LED load - maximum voltage on the 25 V capacitor; case C: the manual's nominal 9.8VAC (13.9 V peak) at 2.5 A - pessimistic bound
.include ../models.lib
V98a a1 a2 SIN(0 17.63 60)
Ra1 a1 aa 0.25
Ra2 a2 ab 0.25
Vbra aa aab 0
DA1 aab v12a DSCH20100
DA2 ab v12a DSCH20100
DA3 0 aab DSCH20100
DA4 0 ab DSCH20100
C30a v12a 0 10000u
Rmota v12a 0 4.8
V98b b1 b2 SIN(0 17.63 60)
Rb1 b1 ba 0.25
Rb2 b2 bb 0.25
DB1 ba v12b DSCH20100
DB2 bb v12b DSCH20100
DB3 0 ba DSCH20100
DB4 0 bb DSCH20100
C30b v12b 0 10000u
Rledb v12b 0 1.6k
V98c c1 c2 SIN(0 13.86 60)
Rc1 c1 ca 0.05
Rc2 c2 cb 0.05
DC1 ca v12c DSCH20100
DC2 cb v12c DSCH20100
DC3 0 ca DSCH20100
DC4 0 cb DSCH20100
C30c v12c 0 10000u
Rmotc v12c 0 4.8
.tran 50u 200m uic
.control
run
let ibra = abs(i(Vbra))
meas tran v12u_min MIN v(v12a) from=150m to=200m
meas tran v12u_avg AVG v(v12a) from=150m to=200m
meas tran v12u_ripple PP v(v12a) from=150m to=200m
meas tran ibr5_peak MAX ibra from=150m to=200m
meas tran ibr5_rms RMS ibra from=150m to=200m
meas tran v12u_max_unloaded MAX v(v12b) from=150m to=200m
meas tran v12u_min_nominal MIN v(v12c) from=150m to=200m
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/psu_12vu.csv v(v12a) v(v12b) ibra
.endc
.end
