Cost-board high-power solenoid driver (sol 1-8) in the machine: 74HCT574 -> 100R -> IRLR3110Z DPAK (10k pull-down) -> AE-23-800 coil (4.2 ohm, 12 mH) on the real "+50V" rail (~70 V DC), S3M tie-back, 40 ms pulse
.include ../models.lib
V50 v50 0 70
VL latch 0 PULSE(0 4.6 1m 20n 20n 40m 100m)
RL latch a 40
Rg a g 100
Rpd g 0 10k
Vdr out outd 0
XQ outd g 0 IRLR3110Z
Vcoil v50 v50c 0
Lc out cl 12m
Rc cl v50c 4.2
Dfb out v50 DS3M
.tran 5u 60m
.control
run
let icoil = i(Vcoil)
let ifet = i(Vdr)
let pfet = v(outd)*ifet
meas tran icoil_max MAX icoil from=1m to=41m
meas tran vout_on AVG v(outd) from=30m to=40m
meas tran vout_peak MAX v(out) from=41m to=60m
meas tran p_fet AVG pfet from=30m to=40m
meas tran e_pulse INTEG pfet from=1m to=41.5m
meas tran icoil_off MAX icoil from=56m to=60m
let tj_rise_pulse = e_pulse / 0.04 * 0.6
print tj_rise_pulse
* Rth(j-a) of the DPAK as routed: the drain tab pad (37 mm2) plus a 1.0 mm track, 38-64 mm2 of 1 oz F.Cu within 25 mm and no pour (board audit, docs/THERMAL_AND_PROTECTION.md)
* -> the IRLR3110Z datasheet minimum-footprint value 110 C/W (40 C/W would need the 1 in2 pad); 60 C/W = the recommended >= 300 mm2 drain pour of the next PCB revision
let p_avg_10pct = p_fet * 0.1
let p_avg_20pct = p_fet * 0.2
let tj_rise_10pct = p_avg_10pct * 110
let tj_rise_20pct = p_avg_20pct * 110
let tj_rise_20pct_pour = p_avg_20pct * 60
print p_avg_10pct
print p_avg_20pct
print tj_rise_10pct
print tj_rise_20pct
print tj_rise_20pct_pour
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/sol_high.csv v(out) icoil ifet v(g)
.endc
.end
